US04500716
Trimethylsilylethyl 2-aminothiazol-4-ylacetate
11.2 g (15.8 ml, 0.1 mol) of trimethylsilylethanol, 100 mg of 4-dimethylaminopyridine and 11.4 g of dicyclohexylcarbodiimide are added at room temperature to 7.9 g (0.05 mol) of 2-aminothiazol-4-ylacetic acid in 50 ml of acetonitrile and the mixture is stirred for 2 days. The precipitated urea is then filtered off under suction, washed with ether, the washings are concentrated on a rotary evaporator and the residue is taken up in ether and the ethereal solution is washed with 0.5N hydrochloric acid and with NaHCO3 solution, dried over MgSO4 and concentrated on a rotary evaporator. After concentration of the solution and addition of petroleum ether, the desired ester crystallizes out.

reactant | trimethylsilylethanol | 0.1 mol, 15.8 ml, 11.2 g | C[Si](C)(C)C(C)O | C5H14OSi
reactant | dicyclohexylcarbodiimide | 11.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-aminothiazol-4-ylacetic acid | 0.05 mol | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Trimethylsilylethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC[Si](C)(C)C | C10H18N2O2SSi
